US04277492
A mixture of 16.0 g (0.053 mole) of sodium 4-(((4-fluorophenyl)methyl)amino)benzenesulfonate in 200 ml of water, 4.5 g (0.053 mole) of 50 percent sodium hydroxide and 9.75 g (0.06 mole) of 4-chlorobenzyl chloride was stirred at about 85° C. for 20 hours. The reaction mixture was cooled and then treated with diethyl ether. The aqueous layer was heated and acidified with concentrated hydrochloric acid. A light tan powder precipitated. Recrystallization gave the product 4-(((4-chlorophenyl)methyl)((4-fluorophenyl)-methyl)amino)benzenesulfonic acid having a melting point greater than 250° C.

reactant | sodium 4-(((4-fluorophenyl)methyl)amino)benzenesulfonate | 0.053 mole, 16.0 g | FC1=CC=C(C=C1)CNC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 0.053 mole, 4.5 g | [OH-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.06 mole, 9.75 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(((4-chlorophenyl)methyl)((4-fluorophenyl)-methyl)amino)benzenesulfonic acid | ClC1=CC=C(C=C1)CN(C1=CC=C(C=C1)S(=O)(=O)O)CC1=CC=C(C=C1)F | C20H17ClFNO3S
